US08470828B2
N-{trans-4-[2-(4-Thieno[2,3-c]pyridin-7-yl-piperazin-1-yl)-ethyl]-cyclohexyl}-acetamide
To a solution under Ar of commercially available 7-piperazine-1-yl-thieno[2,3-c]pyridine hydrochloride [CAS-No. 850734-85-9] (150 mg, 0.59 mmol) in THF (14 ml) were added subsequently iPr2NEt (0.1 ml, 0.59 mmol), trans-N-[4-(2-oxo-ethyl)-cyclohexyl]-acetamide [CAS-No. 946599-01-5, WO 2007/093540] (118 mg, 0.64 mmol) and Na(AcO)3BH (373 mg, 1.76 mmol). After stirring 18 h at room temperature the reaction mixture was partitioned between sat. aq. NaHCO3 sol. and EtOAc. The aqueous layer was extracted one more time with EtOAc. The combined organic layers were washed with H2O and brine and dried over MgSO4. After evaporation of the solvent, the crude product was purified by flash chromatography on silica gel (heptane to EtOAc) to yield the title compound as an off-white solid (82 mg, 36%), MS (ISP) m/z=387.2 [(M+H)+].

reactant | 7-piperazine-1-yl-thieno[2,3-c]pyridine hydrochloride | 0.59 mmol, 150 mg | Cl.N1(CCNCC1)C=1N=CC=C2C1SC=C2
reactant | iPr2NEt | 0.59 mmol, 0.1 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | trans-N-[4-(2-oxo-ethyl)-cyclohexyl]-acetamide | 0.64 mmol, 118 mg | O=CC[C@@H]1CC[C@H](CC1)NC(C)=O | C10H17NO2
solvent | THF | 14 ml | C1CCOC1 | C4H8O
product | N-{trans-4-[2-(4-Thieno[2,3-c]pyridin-7-yl-piperazin-1-yl)-ethyl]-cyclohexyl}-acetamide | 82 mg, 36% | S1C=CC=2C1=C(N=CC2)N2CCN(CC2)CC[C@@H]2CC[C@H](CC2)NC(C)=O | C21H30N4OS
